US06916837B2
After heating to reflux 2-fluoro-4-nitrobenzonitrile (1 g), 6-bromo-2-naphthol (1.41 g), potassium fluoride/alumina (0.7 g) and 18-crown-6 (0.16 g) in acetonitrile, the mixture was reacted for 12 hours. It was then cooled to room temperature, the insoluble portion was filtered using celite, the ethyl acetate layer was washed with water and saturated saline and then dried over magnesium sulfate, and the solvent was distilled off. Methanol was added to the residue for crystallization to obtain 1.43 g of 2-(6-bromo-2-naphthyloxy)-4-nitrobenzonitrile.

reactant | 2-fluoro-4-nitrobenzonitrile | 1 g | FC1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C7H3FN2O2
reactant | 6-bromo-2-naphthol | 1.41 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | 18-crown-6 | 0.16 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(6-bromo-2-naphthyloxy)-4-nitrobenzonitrile | 1.43 g | BrC=1C=C2C=CC(=CC2=CC1)OC1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C17H9BrN2O3
